resistor_cube - fault test
V1 n7 0 DC 12
R1 0 n1 1.015394
R2 0 n2 1.001665
R3 0 n4 0.995431
R4 n1 n3 1.01997
R5 n1 n5 41.112543
R6 n2 n3 0.984828
R7 n2 n6 1.000876
R8 n3 n7 1.018276
R9 n4 n5 1.016441
R10 n4 n6 1.017345
R11 n5 n7 0.083933
R12 n6 n7 0.994195
.op
.control
run
print v(n1) v(n2) v(n3) v(n4) v(n5) v(n6) v(n7)
print @r1[i] @r2[i] @r3[i] @r4[i] @r5[i] @r6[i] @r7[i] @r8[i] @r9[i] @r10[i] @r11[i] @r12[i]
.endc
.end
